US07276324B2
The procedure of Synthesis Example 1 was repeated except that 2-morpholinoethanol was used instead of the triethanolamine, and 2-naphthoyl chloride was used instead of the benzoyl chloride, to give 2-morpholinoethyl 2-naphthalenecarboxylate in a yield of 95%.

reactant | 2-morpholinoethanol | O1CCN(CC1)CCO | C6H13NO2
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 2-morpholinoethyl 2-naphthalenecarboxylate | yield of 95% | C1=C(C=CC2=CC=CC=C12)C(=O)OCCN1CCOCC1 | C17H19NO3
